US07105671B2
A 2.0M solution of lithium diisopropylamide in heptane/tetrahydrofuran/ethylbenzene (564.0 μL, 1.128 mmol) and N,N,N′,N′-tetramethylethylenediamine (157.0 μL, 1.040 mmol) in dry tetrahydrofuran (3 mL) cooled to −78° C. under nitrogen was treated with (3-chloro-4-methanesulfonyl-phenyl)-acetic acid methyl ester (269.4 mg, 1.02 mmol). The reaction mixture was stirred at −78° C. for 1 h and then warmed to 0° C. The reaction was then treated with a solution of 3(R)-iodomethyl-tetrahydro-thiopyran (71.00 mg, 0.293 mmol) in dry tetrahydrofuran (1 mL) and allowed to warm to 25° C., where it was stirred for 19 h. The reaction mixture was then quenched with a saturated aqueous ammonium chloride solution (10 mL) and then concentrated in vacuo to remove tetrahydrofuran. The aqueous residue was extracted with ethyl acetate (2×20 mL), and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 12M, Silica, 4/1 hexanes/ethyl acetate) afforded 2-(3-chloro-4-methanesulfonyl-phenyl)-3(R)-(tetrahydro-thiopyran-3-yl)-propionic acid methyl ester (96 mg, 86.9%) as a colorless oil: [α]23589=+10.93° (c=0.76, methanol); EI-HRMS m/e calcd for C16H21ClO4S2 (M+) 376.0570, found 376.0574.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane tetrahydrofuran ethylbenzene | 1.128 mmol, 564.0 μL | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
reactant | N,N,N′,N′-tetramethylethylenediamine | 1.040 mmol, 157.0 μL | CN(CCN(C)C)C | C6H16N2
reactant | (3-chloro-4-methanesulfonyl-phenyl)-acetic acid methyl ester | 1.02 mmol, 269.4 mg | COC(CC1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C10H11ClO4S
reactant | 3(R)-iodomethyl-tetrahydro-thiopyran | 0.293 mmol, 71.00 mg | IC[C@H]1CSCCC1 | C6H11IS
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3(R)-(tetrahydro-thiopyran-3-yl)-propionic acid methyl ester | 96 mg, 86.9% | COC(C(C[C@@H]1CSCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C16H21ClO4S2
